US08669234B2
To the solution of 2-[5-(4-bromo-3-hydroxymethyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (196 mg, 0.46 mmol) in DMSO (3.5 ml) was added triethylamine (0.40 ml). The mixture was stirred for 30 minutes, and pyridine-sulfur trioxide (500 mg) was added. The mixture was stirred for 2 hours and was quenched with ice-water. The stirring was continued for additional 30 minutes and the mixture was extracted with EtOAc. The organic phase was washed with water and brine, and was dried with sodium sulfate. Concentration gave 2-[5-(4-Bromo-3-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (180 mg).

reactant | 2-[5-(4-bromo-3-hydroxymethyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 196 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)Br)CO | C19H24BrN3O3
reactant | triethylamine | 0.40 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine-sulfur trioxide | 500 mg | C1=CC=NC=C1.O=S(=O)=O
solvent | DMSO | 3.5 ml | CS(=O)C | C2H6OS
product | 2-[5-(4-Bromo-3-formyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 180 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)Br)C=O | C19H22BrN3O3
